US07230031B2
7-(4-benzyloxy-3-isopropylphenoxy)-6-methylindan-4-yl formate
7-(4-benzyloxy-3-isopropylphenoxy)-6-methylindan-4-carbaldehyde (712 mg) was dissolved in dichloromethane (10 mL). To the solution were added sodium hydrogen carbonate (582 mg) and m-chloroperbenzoic acid (399 mg), and the resulting mixture was stirred at room temperature overnight. Adding water, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium hydrogen carbonate and brine successively, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give the title compound (694 mg).

reactant | 7-(4-benzyloxy-3-isopropylphenoxy)-6-methylindan-4-carbaldehyde | 712 mg | C(C1=CC=CC=C1)OC1=C(C=C(OC2=C(C=C(C=3CCCC23)C=O)C)C=C1)C(C)C | C27H28O3
reactant | sodium hydrogen carbonate | 582 mg | C(O)([O-])=O.[Na+]
reactant | m-chloroperbenzoic acid | 399 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 7-(4-benzyloxy-3-isopropylphenoxy)-6-methylindan-4-yl formate | 694 mg | C(=O)OC1=C2CCCC2=C(C(=C1)C)OC1=CC(=C(C=C1)OCC1=CC=CC=C1)C(C)C | C27H28O4
